US08859569B2
5-Fluoro-1-[(3-fluoropyridin-2-yl)methyl]-3-iodo-1H-pyrazolo[3,4-b]pyridine
6.291 g (23.921 mmol) of 5-fluoro-3-iodo-1H-pyrazolo[3,4-b]pyridine and 8.573 g (26.313 mmol) of caesium carbonate were put in DMF (10 ml) and then 5.00 g (26.313 mmol) of 2-(bromomethyl)-3-fluoropyridine dissolved in DMF (20 ml) was added dropwise. The mixture was stirred overnight at RT. Then it was left to cool and was poured into 200 ml water. A precipitate was filtered off with suction, it was washed with water and dried overnight under high vacuum. 6.28 g (70% of theor.) of the title compound was obtained.

reactant | 5-fluoro-3-iodo-1H-pyrazolo[3,4-b]pyridine | 23.921 mmol, 6.291 g | FC=1C=C2C(=NC1)NN=C2I | C6H3FIN3
reactant | caesium carbonate | 26.313 mmol, 8.573 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(bromomethyl)-3-fluoropyridine | 26.313 mmol, 5.00 g | BrCC1=NC=CC=C1F | C6H5BrFN
reactant | water | 200 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-Fluoro-1-[(3-fluoropyridin-2-yl)methyl]-3-iodo-1H-pyrazolo[3,4-b]pyridine | FC=1C=C2C(=NC1)N(N=C2I)CC2=NC=CC=C2F | C12H7F2IN4
